US07153859B2
8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline dihydrochloride (the compound obtained in Example 1-(6)) (2 g) is dissolved in N,N-dimethylformamide (10 ml), and thereto are added potassium carbonate (2.8 g) and benzyl bromide (0.7 ml), and the mixture is stirred at room temperature for 3 hours. The reaction solution is diluted with chloroform, washed with a saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The precipitates (1.2 g) are dissolved in chloroform, and thereto is added a 4M hydrochloric acid in ethyl acetate, and the solvent is removed by evaporation under reduced pressure. The resultant is recrystallized from ethanol to give 8,9-dimethoxy-2-benzyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline dihydrochloride (1.2 g).

reactant | 8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline dihydrochloride | Cl.Cl.COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCNC3)OC
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8,9-dimethoxy-2-benzyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline dihydrochloride | 1.2 g | Cl.Cl.COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCN(C3)CC3=CC=CC=C3)OC | InChI=1S/C27H30N2O2.2ClH/c1-30-25-16-22-15-23-19-28(18-20-9-5-3-6-10-20)13-14-29(23)27(21-11-7-4-8-12-21)24(22)17-26(25)31-2;;/h3-12,16-17,23,27H,13-15,18-19H2,1-2H3;2*1H
